US07820654B2
Synthesis of 4-phenyl-6-phenylethynylpyrimidin-2-ylamine
A mixture of 4-chloro-6-phenylpyrimidin-2-ylamine (2.0 g, 9.7 mmol), (PPh3)2PdCl2 (204 mg, 0.29 mmol), triethylamine (4.9 g, 48.5 mmol) in DMF (10 mL) was stirred at 25° C. for 0.5 hour under a nitrogen atmosphere. Then phenylacetylene (1.29 g, 12.70 mmol) was added to it and the mixture was stirred at 100° C. for 4 hours under a nitrogen atmosphere. The mixture was cooled to temperature in the range of 20-40° C., diluted with water (20 mL) and extracted with EtOAc (3×25 mL). The organic layers were collected, combined, washed with water (30 mL), dried over anhydrous Na2SO4, and concentrated under vacuum. The residue was purified by column chromatography using EtOAc-petroleum ether to give the desired product.

reactant | 4-chloro-6-phenylpyrimidin-2-ylamine | 9.7 mmol, 2.0 g | ClC1=NC(=NC(=C1)C1=CC=CC=C1)N | C10H8ClN3
reactant | triethylamine | 48.5 mmol, 4.9 g | C(C)N(CC)CC | C6H15N
reactant | phenylacetylene | 12.70 mmol, 1.29 g | C1(=CC=CC=C1)C#C | C8H6
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
catalyst | (PPh3)2PdCl2 | 0.29 mmol, 204 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-phenyl-6-phenylethynylpyrimidin-2-ylamine | C1(=CC=CC=C1)C1=NC(=NC(=C1)C#CC1=CC=CC=C1)N | C18H13N3
